US08278441B2
Racemic tert-Butyl (4aSR,8aSR)-8a-(3-bromophenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-ylcarbamate
A mixture of racemic (4aSR,8aSR)-8a-(3-bromophenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-amine (2.08 g, 6.36 mmol) and di-t-butyldicarbonate (2.77 g, 12.7 mmol) in 1,4-dioxane (60 mL) and saturated aqueous NaHCO3 (60 mL) is stirred at room temperature for 8 h. The mixture is diluted water and extracted three times with EtOAc. The combined organic layers are dried over Na2SO4 and the solvent is removed under reduced pressure to afford material that is purified by silica gel chromatography eluting with a linear gradient of 5% to 100% EtOAc in hexanes to give the title compound (2.81 g, 100%). ES/MS m/e (79Br/81Br) 427, 429 (M+1).

reactant | racemic (4aSR,8aSR)-8a-(3-bromophenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-amine | 6.36 mmol, 2.08 g | BrC=1C=C(C=CC1)C12N=C(SCC1COCC2)N | C13H15BrN2OS
reactant | di-t-butyldicarbonate | 12.7 mmol, 2.77 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
product | Racemic tert-Butyl (4aSR,8aSR)-8a-(3-bromophenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-ylcarbamate | 2.81 g, 100% | BrC=1C=C(C=CC1)C12N=C(SCC1COCC2)NC(OC(C)(C)C)=O | C18H23BrN2O3S
